US07375101B2
3-Amino-7-chloro-1,3-dihydro-5-(6-methoxy-2-pyridinyl)-1-methyl-2H-1,4-benzodiazepin-2-one
As illustrated in the scheme above, a suspension of Pd/C (0.005 g of 10% on C) in MeOH (0.5 mL) under N2 was treated with ammonium formate (0.0252 g, 0.400 mmol). The mixture was stirred for 10 min. and then transferred via Pasteur pipette to a suspension of 3-azido-7-chloro-1,3-dihydro-5-(6-methoxy-2-pyridinyl)-1-methyl-2H-1,4-benzodiazepin-2-one (0.0204 g, 0.0572 mmol) in MeOH (1.2 mL). The resulting mixture was stirred at room temperature for 3 h and was then filtered through a small pad of Celite. The filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography (100% EtOAc, followed by 4:1 CH2Cl2:EtOAc) to provide the title compound (0.0148 g, 78%). 1H-NMR (CDCl3): δ 7.82 (dd, J=0.8 Hz, J=7.6 Hz, 1H), 7.71-7.66 (m, 2H), 7.51 (dd, 2.4 Hz, J=8.8 Hz, 1H), 7.28 (d, J=8.8 Hz, 1H), 6.83 (dd, J=0.8 Hz, J=8.4 Hz, 1H), 4.56 (s, 1H), 3.80 (s, 3H), 3.44 (s, 3H), 2.53 (br s, 2H). MS (ESI) (M+H)+=331.

reactant | ammonium formate | 0.400 mmol, 0.0252 g | C(=O)[O-].[NH4+]
reactant | 3-azido-7-chloro-1,3-dihydro-5-(6-methoxy-2-pyridinyl)-1-methyl-2H-1,4-benzodiazepin-2-one | 0.0572 mmol, 0.0204 g | N(=[N+]=[N-])C1C(N(C2=C(C(=N1)C1=NC(=CC=C1)OC)C=C(C=C2)Cl)C)=O | C16H13ClN6O2
solvent | MeOH | 0.5 mL | CO | CH4O
solvent | MeOH | 1.2 mL | CO | CH4O
catalyst | Pd/C | 0.005 g | [Pd] | Pd
product | 3-Amino-7-chloro-1,3-dihydro-5-(6-methoxy-2-pyridinyl)-1-methyl-2H-1,4-benzodiazepin-2-one | 0.0148 g, 78% | NC1C(N(C2=C(C(=N1)C1=NC(=CC=C1)OC)C=C(C=C2)Cl)C)=O | C16H15ClN4O2
